US04737516
(R) 3-Ethynyl-7-methylbenzo[b]thiophene
0.6 g of 3-(dibromovinyl)-7-methylbenzo[b]thiophene are dissolved in abs. tetrahydrofuran and 3.38 ml of a 15% solution of n-butyllithium in n-hexane are added dropwise under inert gas and at -78°. Stirring is continued for one hour at -78° and the mixture subsequently warmed to room temperature, poured into saturated aq. NaHCO3 and extracted with ether. The organic phase is washed, dried, concentrated and directly further reacted.

reactant | 3-(dibromovinyl)-7-methylbenzo[b]thiophene | 0.6 g | BrC(=CC=1C2=C(SC1)C(=CC=C2)C)Br | C11H8Br2S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | n-hexane | CCCCCC | C6H14
product | 3-Ethynyl-7-methylbenzo[b]thiophene | C(#C)C=1C2=C(SC1)C(=CC=C2)C | C11H8S
